US06384220B2
A mixture of 2-biphenyl-4-yl-3-cyclopentylpropionic acid methyl ester (987.4 mg, 3.20 mmol) and methyl urea (948.7 mg, 12.80 mmol) was treated with a solution of magnesium methoxide in methanol (7.4 wt. %, 18 mL, 12.80 mmol). The resulting reaction mixture was then heated under reflux for 19 h. The reaction mixture was allowed to cool to 25° C. and then filtered through celite. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded 1-(2-biphenyl-4-yl-3-cyclopentyl-propionyl)-3-methyl urea (152.5 mg, 14%) as a white solid: mp 195-197° C.; EI-HRMS m/e calcd for C22H26N2O2 (M+) 350.1994, found 350.2004.

reactant | 2-biphenyl-4-yl-3-cyclopentylpropionic acid methyl ester | 3.20 mmol, 987.4 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C21H24O2
reactant | methyl urea | 12.80 mmol, 948.7 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 12.80 mmol, 18 mL | CO | CH4O
product | 1-(2-biphenyl-4-yl-3-cyclopentyl-propionyl)-3-methyl urea | 152.5 mg, 14% | C1(=CC=C(C=C1)C(C(=O)NC(=O)NC)CC1CCCC1)C1=CC=CC=C1 | C22H26N2O2
